US07411072B2
N-[3-(4-Methoxy-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-phenyl]-methanesulfonamide
Following procedures essentially as described in Example 90, the title compound is prepared from 3-(4-Methoxy-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-phenylamine and methanesulfonyl chloride. Flash chromatography eluting with 5 to 10 to 20% ethyl acetate:toluene provides 198 mg product (60% yield) of the title final product.

reactant | 3-(4-Methoxy-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-phenylamine | COC1=CC=CC2=C1OCC1=C(C2=CC=2C=C(C=CC2)N)C=CC=C1 | C22H19NO2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[3-(4-Methoxy-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-phenyl]-methanesulfonamide | COC1=CC=CC2=C1OCC1=C(C2=CC=2C=C(C=CC2)NS(=O)(=O)C)C=CC=C1 | C23H21NO4S
